US07208490B2
Step 1: Preparation of 5-Bromo-2-(2,6-dimethylmorpholin-4-yl)benzaldehyde:
A mixture of 5-bromo-2-fluorobenzaldehyde (16.0 g, 78.6 mmol), cis-2,6-dimethylmorpholine (9.32 g, 80.9 mmol), and potassium carbonate (15.0 g, 108 mmol) in DMF (75 mL) is heated in a 120° C. oil bath for 14 hours. The mixture is diluted with MTBE (250 mL) and washed with water (4×200 mL). (Ethyl acetate is added as needed to maintain the homogeneity of the organic layer). The organics are filtered through a 1″ plug of silica gel and evaporated to give 21.5 g of brown solid. This material is approximately 90% pure as judged by HPLC and is used without further purification. 1H NMR (DMSO-d6) δ 10.11, 7.78, 7.75, 7.17, 3.77–3.86, 3.12, 2.56, 1.11.

reactant | 5-bromo-2-fluorobenzaldehyde | 78.6 mmol, 16.0 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | cis-2,6-dimethylmorpholine | 80.9 mmol, 9.32 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | potassium carbonate | 108 mmol, 15.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | MTBE | 250 mL | CC(C)(C)OC | C5H12O
product | 5-Bromo-2-(2,6-dimethylmorpholin-4-yl)benzaldehyde | 21.5 g | BrC=1C=CC(=C(C=O)C1)N1CC(OC(C1)C)C | C13H16BrNO2
